US06670391B2
In the same manner as in Reference Example 1, except that an equimolar amount of 3-hexyloxy-4,6-dihydroxy-2H-1-benzopyran-2-one was used in place of 3-ethoxy-4,5-dihydroxy-2H-1-benzopyran-2-one, and 3-bromopropyl acetate was used in place of 2-bromoethyl acetate in Reference Example 1, 3-hexyloxy-4-hydroxy-6-(3-acetoxypropoxy)-2H-1-benzopyran-2-one was obtained.

reactant | 3-hexyloxy-4,6-dihydroxy-2H-1-benzopyran-2-one | C(CCCCC)OC=1C(OC2=C(C1O)C=C(C=C2)O)=O | C15H18O5
reactant | 3-bromopropyl acetate | C(C)(=O)OCCCBr | C5H9BrO2
product | 3-hexyloxy-4-hydroxy-6-(3-acetoxypropoxy)-2H-1-benzopyran-2-one | C(CCCCC)OC=1C(OC2=C(C1O)C=C(C=C2)OCCCOC(C)=O)=O | C20H26O7
